* source DESIGN1
V_V1         VCC 0 5Vdc
V_V2         N00978 0 0.5Vdc
V_V3         N01040 0  
+EXP 4.5 0 0 20n 1u 20n
X_U1         N01040 N00978 VCC 0 N01162 TLV3601
