* source DESIGN_METHOD2
X_U1         N00503 N00410 N00936 VCC VCC VCC 0 N00377 N00381 TLV3605
V_V1         VCC 0 5.5Vdc
V_V2         N00410 0 0.175Vdc
V_V3         N00503 0  
+PULSE 0 0.35 10n 300p 300p 2n 100n
X_Q1         N00936 N00503 N02307 BFG425W/PLP
V_V4         N02307 0 -650mVdc
R_R1         N00936 VCC  1k TC=0,0 
V_V5         N06902 0  
+PULSE 0 2 10n 300p 300p 2n 100n
C_C1         N07277 N07305  10p  TC=0,0 
R_R2         N07277 VCC  2k TC=0,0 
