* source HOLD_CIRCUIT
V_V1         VDD 0 5Vdc
V_V2         VCC 0 12Vdc
V_V3         0 VSS 12Vdc
C_C1         0 N07274  1u  TC=0,0 
C_C2         0 VDD  10u  TC=0,0 
C_C3         0 N09686  20u  TC=0,0 
V_V4         0 VEE 5Vdc
X_U3         VDD N07205 0 N07274 N09686 REF5045
C_C4         0 N50140  1n  TC=0,0 
X_U4         N09686 N50140 VDD 0 N50288 N51187 TLV3603
X_D1         N51560 N50140 BAT54/PLP
V_V5         N51560 0  
+PULSE 0 5 100n 100p 100p 400n 600n
X_Q1         N51560 N52500 0 BFG425W/PLP
R_R2         0 N52500  1k  
R_R3         N52500 N50288  1k  
