* source LAYER1
R_R1         N00100 VCC  2k TC=0,0 
V_V1         N00187 0  
+PULSE 710mV 1V 100n 200p 200p 10n 200n
V_V2         VCC 0 3.3Vdc
X_Q1         N00100 N00187 0 BFP420/INF
